US06087357
To a solution of oxalyl chloride (0.361 ml) in dichloromethane (10 ml) cooled below -65° C. with a dry ice-acetone bath, a solution of dimethyl sulfoxide (0.381 ml) in dichloromethane (1 ml) was added with efficient stirring over 10 minutes. After 20 minutes below -65° C., a solution of 3-(1-methyl-1H-pyrazol-4-yl)-1-propanol in dichloromethane (2 ml) was added to the mixture over 10 minutes below -65° C. and the mixture was stirred at the same temperature for 20 minutes and then at -45~-40° C. for 30 minutes. After addition of triethylamine dropwise to the mixture over 10 minutes followed by stirring for 15 minutes, 1N hydrochloric acid solution was added to the mixture. The resulting mixture was extracted with a mixture of dichloromethane and methanol several times. The extract was concentrated under reduced pressure and the resulting residue was chromatographed on a silica gel using a mixture of dichloromethane and methanol as an eluent to give 3-(1-methyl-1H-pyrazol-4-yl)-1-propanal.

reactant | oxalyl chloride | 0.361 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.381 ml | CS(=O)C | C2H6OS
reactant | 3-(1-methyl-1H-pyrazol-4-yl)-1-propanol | CN1N=CC(=C1)CCCO | C7H12N2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(1-methyl-1H-pyrazol-4-yl)-1-propanal | CN1N=CC(=C1)CCC=O | C7H10N2O
